Name:  ___                 Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: NEUROSURGERY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
Superior cerebellar artery aneurysm
 
Major Surgical or Invasive Procedure:
___ Diagnostic cerebral angiogram
___ - coil embolization of left SCA aneurysm
 
History of Present Illness:
Mrs. ___ was admitted to the Neurosurgery service for a 
diagnostic angiogram to further evaluate her known superior 
cerebellar artery.
 
Past Medical History:
Known superior cerebellar artery disection
hypertension during pregnancy
s/p biopsy of cervical lesion ___ - results were negative
s/p right elbow surgery for fracture

 
Social History:
___
Family History:
maternal grandfather - died of MI
maternal grandmother - died of breast cancer
father - history of severe MRSA infection
paternal side - two cousins with cancer, unknown type

 
Physical Exam:
On discharge:
Neurologically intact

 
Pertinent Results:
___ - Cerebral Angiogram:
Ms. ___ was taken to the angiography to perform a 
two-month post-left cerebellar artery dissection check 
angiography. This 
angiography confirmed that the angiographic picture of that left 
SCA 
dissection has got worse and we see more dissecting aneurysmal 
formation and dilatation of the entire segment in comparison to 
the previous angiography, which was performed on ___. Otherwise, there is no other vascular abnormality. No 
procedure-related thromboembolic complication was noted. 

___ - Interventional Procedure:
Preliminary Report
1. Successful primary embolization of a left SCA dissecting 
fusiform aneurysm with deployment of multiple coils within the 
aneurysm sac itself. Final post embolization angiograms 
demonstrates patency and filling of the proximal left SCA which 
likely contribute significant brainstem perforators. 
2. No direct thromboembolic complication was noted from this 
procedure. 

___ CT head without contrast:
1. Limited evaluation due to beam hardening artifact due to left 
SCA coil 
mass. 
2. Within limits of study, no acute intracranial abnormality. 

___ MRI/MRA head
Small acute infarcts are seen involving the left side of the 
pons and left 
superior cerebellum.  The MRA examination is unchanged from the 
previous study 
of ___. 

 
Brief Hospital Course:
Mrs. ___ was admitted to the Neurosurgery service on ___ after 
she underwent an elective cerebral angiogram to further evaluate 
her known left superior cerebellar artery disection.  After the 
procedure, she was transferred to the ICU for close neurologic 
monitoring and strict blood pressure control, keeping her 
systolic pressure less than 140mmHg.  The patient and family 
were extremely upset and anxious due to the increase in size and 
overall severity of the disection.  The patient was given a diet 
as tolerated.  Emotional support was provided to the patient and 
family, and risks and benefits of a surgical intervention this 
admission were discussed.

On ___, the patient remained neurologically stable. Dr. ___ 
met with the patient and family in the afternoon. It was decided 
after in depth discussion regarding risks and benefits with the 
patient , her parents and significant other to proceed with 
endovascular treatment of aneurysm.

On ___, the patient was brought to the INR site and under 
general anesthesia the Left SCA dissecting aneurysm was 
successful coil embolized. She was extubated, neurologically 
intact and transferred back to the neuro ICU in stable 
condition. A heparin drip was initiated and she was closely 
monitored overnight.

On ___, the patient remained neurologically stable. The 
pressors were weaned off and it was determined she would be kept 
normotensive. The foley catheter was discontinued. 

On ___, Mrs. ___ was transferred to the inpatient ward for 
further management.  Her IV fluids and pressors were 
discontinued.  She was maintaining a systolic pressure in the 
95-115 range.  She was encourged to ambulate and mobilize out of 
bed with nursing assistance.  The patients WBC increased from 12 
to 20 on this day.  

On ___, the patient was started on 5 days of cipro for a UTI. 
 She was neurologically stable. She worked with ___.

On ___, the patient complained of right sided numbness.  A 
MRI/MRA was ordered which was stable.  She continued to work 
with ___.

On ___, the patient was stable.  She was discharged to home with 
follow up instructions.
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. This patient is not taking any preadmission medications

 
Discharge Medications:
1. Aspirin 325 mg PO DAILY 
RX *aspirin 325 mg 1 tablet(s) by mouth daily Disp #*30 Tablet 
Refills:*12
2. Ciprofloxacin HCl 500 mg PO Q12H Duration: 5 Days 
RX *ciprofloxacin HCl 500 mg 1 tablet(s) by mouth Twice a day 
Disp #*6 Tablet Refills:*0
3. Dexamethasone 4 mg PO Q12H Duration: 2 Doses 
Tapered dose - DOWN 
RX *dexamethasone 4 mg 1 tablet(s) by mouth twice a day Disp #*2 
Tablet Refills:*0
4. Dexamethasone 2 mg PO Q8H Duration: 3 Doses 
Tapered dose - DOWN 
RX *dexamethasone 2 mg 1 tablet(s) by mouth 3 times a day Disp 
#*3 Tablet Refills:*0
5. Dexamethasone 2 mg PO Q12H Duration: 2 Doses 
Tapered dose - DOWN 
RX *dexamethasone 2 mg 1 tablet(s) by mouth twice a day Disp #*2 
Tablet Refills:*0
6. Dexamethasone 2 mg PO DAILY Duration: 1 Dose 
Stop after finishing this dose 
Tapered dose - DOWN 
RX *dexamethasone 2 mg 1 tablet(s) by mouth Once a day. Stop 
after this dose Disp #*1 Tablet Refills:*0
7. Docusate Sodium 100 mg PO BID 
RX *docusate sodium [Colace] 50 mg 1 capsule(s) by mouth daily 
as needed Disp #*15 Capsule Refills:*0
8. Famotidine 20 mg PO BID 
RX *famotidine 20 mg 1 tablet(s) by mouth twice a day Disp #*10 
Tablet Refills:*0
9. OxycoDONE (Immediate Release)  5 mg PO Q6H:PRN Pain 
RX *oxycodone 5 mg 1 tablet(s) by mouth Every 6 hours as needed 
Disp #*25 Tablet Refills:*0

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Left superior cerebellar artery disection

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Activity
•You may gradually return to your normal activities, but we 
recommend you take it easy for the next ___ hours to avoid 
bleeding from your groin.
•Heavy lifting, running, climbing, or other strenuous exercise 
should be avoided for ten (10) days. This is to prevent bleeding 
from your groin.
•You make take leisurely walks and slowly increase your 
activity at your own pace. ___ try to do too much all at once.
•Do not go swimming or submerge yourself in water for five (5) 
days after your procedure.
•You make take a shower.
Medications
•Resume your normal medications and begin new medications as 
directed.
•You may be instructed by your doctor to take one ___ a 
day. Do not take any other products that have aspirin in them. 
If you are unsure of what products contain Aspirin, as your 
pharmacist or call our office.
•You may use Acetaminophen (Tylenol) for minor discomfort if 
you are not otherwise restricted from taking this medication.
Care of the Puncture Site
•You will have a small bandage over the site.
•Remove the bandage in 24 hours by soaking it with water and 
gently peeling it off.
•Keep the site clean with soap and water and dry it carefully.
•You may use a band-aid if you wish.

What You ___ Experience:
•Mild tenderness and bruising at the puncture site (groin).
•Soreness in your arms from the intravenous lines.
•Mild to moderate headaches that last several days to a few 
weeks.
•Fatigue is very normal
•Constipation is common. Be sure to drink plenty of fluids and 
eat a high-fiber diet. If you are taking narcotics (prescription 
pain medications), try an over-the-counter stool softener.

 
Followup Instructions:
___